US07595398B2
Z-Pro-OH (1.46 g, 5.85 mmol) and HATU (2.2 g, 5.85 mmol) were combined in 30 mL of dry DMF. To this solution was added DIEA(1.5 mL, 8.8 mmol). This solution was stirred at room temperature for 1 hour. To this solution was added 4-(4-nitro-phenyl)-thiazol-2-ylamine (1.0 g, 4.5 mmol). Reaction mixture was stirred at room temperature overnight. The crude material was purified using HPLC to yield 2-[4-(4-Nitro-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester. MS: 453.1 (M+H+).

reactant | Z-Pro-OH | 5.85 mmol, 1.46 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | HATU | 5.85 mmol, 2.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 8.8 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(4-nitro-phenyl)-thiazol-2-ylamine | 4.5 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=C(SC1)N | C9H7N3O2S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4-Nitro-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C22H20N4O5S
